Cost-board flashlamp driver (sol 17-24): 74HCT574 -> 100R -> IPD90N10S4L06 DPAK sink, #89 lamp on +20V (S1M tie-back)
.include ../models.lib
V20 v20 0 20
VL latch 0 PULSE(0 4.6 1m 20n 20n 60m 100m)
RL latch a 40
Rg a g 100
Rpd g 0 10k
XQ lamp g 0 IPD90N10S4L06
Vlamp v20 v20l 0
Blamp v20l lamp I = v(v20l,lamp) / (3 + 15*(1-exp(-max(time-1m,0)/8m)))
Dfb lamp v20 DS1M
.tran 5u 80m
.control
run
let ilamp = i(Vlamp)
meas tran ilamp_inrush MAX ilamp from=1m to=3m
meas tran ilamp_hot AVG ilamp from=50m to=60m
meas tran vsat AVG v(lamp) from=50m to=60m
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/flasher.csv v(lamp) ilamp
.endc
.end
